.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-271_freq port1 port2 PARAMS: Cpar=0.68pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=180
+ R2=0.03
+ C= {Cpar}
+ K1=0.000001
+ K2=0.05
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=3.07048E-07
+ Is=3.703901081
+ a=1.515202218
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=681.142869
.ends EPL2014-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-271_sat port1 port2 PARAMS: Cpar=0.587pF Ind=0.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=180
+ R2=0.03
+ C= {Cpar}
+ K1=0.000001
+ K2=0.05
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=3.07048E-07
+ Is=3.703901081
+ a=1.515202218
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=681.142869
.ends EPL2014-271_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-421_freq port1 port2 PARAMS: Cpar=0.82pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=220
+ R2=0.037
+ C= {Cpar}
+ K1=0.000001
+ K2=0.1
+ K3= {Ind}
+ K4=0.01
+ K5=0.00000996
+ L=4.09159E-07
+ Is=3.519379938
+ a=1.430724068
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=976.4168586
.ends EPL2014-421_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-421_sat port1 port2 PARAMS: Cpar=0.683pF Ind=0.47uH
X1 port1 port2 Model1C PARAMS:
+ R1=220
+ R2=0.037
+ C= {Cpar}
+ K1=0.000001
+ K2=0.1
+ K3= {Ind}
+ K4=0.01
+ K5=0.00000996
+ L=4.09159E-07
+ Is=3.519379938
+ a=1.430724068
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=976.4168586
.ends EPL2014-421_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-601_freq port1 port2 PARAMS: Cpar=0.78pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=250
+ R2=0.043
+ C= {Cpar}
+ K1=0.000001
+ K2=0.17
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=5.71019E-07
+ Is=2.872211814
+ a=1.472989302
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1356.454675
.ends EPL2014-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-601_sat port1 port2 PARAMS: Cpar=0.639pF Ind=0.6uH
X1 port1 port2 Model1C PARAMS:
+ R1=250
+ R2=0.043
+ C= {Cpar}
+ K1=0.000001
+ K2=0.17
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=5.71019E-07
+ Is=2.872211814
+ a=1.472989302
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1356.454675
.ends EPL2014-601_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-821_freq port1 port2 PARAMS: Cpar=1.29pF Ind=0.82uH
X1 port1 port2 Model1A PARAMS:
+ R1=250
+ R2=0.051
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=8.09588E-07
+ Is=2.338919131
+ a=1.639715458
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1588.63218
.ends EPL2014-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-821_sat port1 port2 PARAMS: Cpar=1.128pF Ind=0.82uH
X1 port1 port2 Model1C PARAMS:
+ R1=250
+ R2=0.051
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=8.09588E-07
+ Is=2.338919131
+ a=1.639715458
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1588.63218
.ends EPL2014-821_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-102_freq port1 port2 PARAMS: Cpar=1.82pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=210
+ R2=0.059
+ C= {Cpar}
+ K1=0.000001
+ K2=0.54
+ K3= {Ind}
+ K4=0.015
+ K5=0.00000998
+ L=9.99522E-07
+ Is=2.256198302
+ a=1.632044797
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1752.434264
.ends EPL2014-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-102_sat port1 port2 PARAMS: Cpar=1.627pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=210
+ R2=0.059
+ C= {Cpar}
+ K1=0.000001
+ K2=0.54
+ K3= {Ind}
+ K4=0.015
+ K5=0.00000998
+ L=9.99522E-07
+ Is=2.256198302
+ a=1.632044797
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1752.434264
.ends EPL2014-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-152_freq port1 port2 PARAMS: Cpar=1.91pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.075
+ C= {Cpar}
+ K1=0.000001
+ K2=0.72
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000998
+ L=1.36502E-06
+ Is=2.071744922
+ a=1.535281197
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2478.517838
.ends EPL2014-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-152_sat port1 port2 PARAMS: Cpar=1.788pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=200
+ R2=0.075
+ C= {Cpar}
+ K1=0.000001
+ K2=0.72
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000998
+ L=1.36502E-06
+ Is=2.071744922
+ a=1.535281197
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2478.517838
.ends EPL2014-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-222_freq port1 port2 PARAMS: Cpar=2.44pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.12
+ C= {Cpar}
+ K1=0.000001
+ K2=0.8
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.22711E-06
+ Is=1.738319589
+ a=1.48326282
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3361.973658
.ends EPL2014-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-222_sat port1 port2 PARAMS: Cpar=2.223pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=125
+ R2=0.12
+ C= {Cpar}
+ K1=0.000001
+ K2=0.8
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.22711E-06
+ Is=1.738319589
+ a=1.48326282
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3361.973658
.ends EPL2014-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-332_freq port1 port2 PARAMS: Cpar=2.19pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.152
+ C= {Cpar}
+ K1=0.000001
+ K2=1
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000098
+ L=3.24371E-06
+ Is=1.630305904
+ a=1.32124983
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5027.991876
.ends EPL2014-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-332_sat port1 port2 PARAMS: Cpar=2.021pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=100
+ R2=0.152
+ C= {Cpar}
+ K1=0.000001
+ K2=1
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000098
+ L=3.24371E-06
+ Is=1.630305904
+ a=1.32124983
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5027.991876
.ends EPL2014-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-472_freq port1 port2 PARAMS: Cpar=2.6pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=95
+ R2=0.231
+ C= {Cpar}
+ K1=0.000001
+ K2=1.58
+ K3= {Ind}
+ K4=0.06
+ K5=0.0000099
+ L=4.57862E-06
+ Is=2.237265778
+ a=0.691145404
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6725.973991
.ends EPL2014-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-472_sat port1 port2 PARAMS: Cpar=2.397pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=95
+ R2=0.231
+ C= {Cpar}
+ K1=0.000001
+ K2=1.58
+ K3= {Ind}
+ K4=0.06
+ K5=0.0000099
+ L=4.57862E-06
+ Is=2.237265778
+ a=0.691145404
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6725.973991
.ends EPL2014-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-682_freq port1 port2 PARAMS: Cpar=2.72pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=140
+ R2=0.287
+ C= {Cpar}
+ K1=0.000001
+ K2=2.02
+ K3= {Ind}
+ K4=0.065
+ K5=0.0000099
+ L=6.63006E-06
+ Is=1.385136997
+ a=0.831922007
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7185.294397
.ends EPL2014-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-682_sat port1 port2 PARAMS: Cpar=2.567pF Ind=6.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=140
+ R2=0.287
+ C= {Cpar}
+ K1=0.000001
+ K2=2.02
+ K3= {Ind}
+ K4=0.065
+ K5=0.0000099
+ L=6.63006E-06
+ Is=1.385136997
+ a=0.831922007
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7185.294397
.ends EPL2014-682_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-822_freq port1 port2 PARAMS: Cpar=2.84pF Ind=8.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=165
+ R2=0.378
+ C= {Cpar}
+ K1=0.000001
+ K2=2.8
+ K3= {Ind}
+ K4=0.083
+ K5=0.00000995
+ L=8.06834E-06
+ Is=0.95955126
+ a=1.047833258
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8229.342178
.ends EPL2014-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-822_sat port1 port2 PARAMS: Cpar=2.673pF Ind=8.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=165
+ R2=0.378
+ C= {Cpar}
+ K1=0.000001
+ K2=2.8
+ K3= {Ind}
+ K4=0.083
+ K5=0.00000995
+ L=8.06834E-06
+ Is=0.95955126
+ a=1.047833258
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8229.342178
.ends EPL2014-822_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-103_freq port1 port2 PARAMS: Cpar=2.59pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=175
+ R2=0.44
+ C= {Cpar}
+ K1=0.000001
+ K2=3.4
+ K3= {Ind}
+ K4=0.106
+ K5=0.00000995
+ L=9.9336E-06
+ Is=0.949743247
+ a=0.905354113
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10026.57117
.ends EPL2014-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-103_sat port1 port2 PARAMS: Cpar=2.432pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=175
+ R2=0.44
+ C= {Cpar}
+ K1=0.000001
+ K2=3.4
+ K3= {Ind}
+ K4=0.106
+ K5=0.00000995
+ L=9.9336E-06
+ Is=0.949743247
+ a=0.905354113
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10026.57117
.ends EPL2014-103_sat

